US04208344
Diethyl 5-oxocyclohexanephosphonate (B.Pt. 142°-3° C./0.2 mm) was prepared by the base catalysed addition of diethylphosphite to 2-cyclohexen-1-one.

reactant | diethylphosphite | C(C)OP(OCC)[O-]
reactant | 2-cyclohexen-1-one | C1(C=CCCC1)=O | C6H8O
product | Diethyl 5-oxocyclohexanephosphonate | O=C1CCCC(C1)P(OCC)(=O)OCC | C10H19O4P
